US09315458B2
G) methyl 4-cyano-2-hydroxy-3-methyl-5-[4-(1H-pyrazol-1-yl)benzyl]benzoate
To a solution of methyl 4-cyano-2-hydroxy-3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (3.50 g) in 1,4-dioxane (30.0 mL) were added 1-(4-(chloromethyl)phenyl)-1H-pyrazole (2.12 g), tripotassium phosphate trihydrate (5.90 g) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane adduct (0.34 g), and the mixture was stirred at 90° C. for 16 hr under nitrogen atmosphere. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by flash silica gel column chromatography (ethyl acetate/petroleum ether) to give the title compound (0.86 g).

reactant | methyl 4-cyano-2-hydroxy-3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 3.50 g | C(#N)C1=C(C(=C(C(=O)OC)C=C1B1OC(C(O1)(C)C)(C)C)O)C | C16H20BNO5
reactant | 1-(4-(chloromethyl)phenyl)-1H-pyrazole | 2.12 g | ClCC1=CC=C(C=C1)N1N=CC=C1 | C10H9ClN2
reactant | tripotassium phosphate trihydrate | 5.90 g | O.O.O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | O | H2O
solvent | 1,4-dioxane | 30.0 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane | 0.34 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | methyl 4-cyano-2-hydroxy-3-methyl-5-[4-(1H-pyrazol-1-yl)benzyl]benzoate | 0.86 g | C(#N)C1=C(C(=C(C(=O)OC)C=C1CC1=CC=C(C=C1)N1N=CC=C1)O)C | C20H17N3O3
